US05430047
Step C: Preparation of 1-Chloro-4-(2-iodoethyl)-benzene
A solution of O-phenylene phosphorochloridite (10.12 g, 58 mmol) and pyridine (4.6 g, 58 mmol) in diethyl ether (200 mL) is cooled to 0° C. and treated dropwise with a solution of 4'-chlorophenethyl alcohol (9 g, 57.5 mmol) in diethyl ether (100 mL) and stirred 2 days. The resulting pyridine hydrochloride is collected by filtration and the filtrate is concentrated under vacuum to an oil. A solution of the oil in dichloromethane (150 mL) is stirred 10 days with iodine (14.72 g, 58 mmol) and then the reaction mixture is washed successively with 5% sodium hydroxide solution, 5% sodium bisulfite solution, and then saturated sodium chloride solution. The dried (MgSO4) organic layer is concentrated in vacuo to provide 17.1 g of a pale yellow oil whose proton nuclear magnetic resonance (PMR) spectrum is consistent with its structure.

reactant | O-phenylene phosphorochloridite | 58 mmol, 10.12 g | P1(OC2=C(C=CC=C2)O1)Cl | C6H4ClO2P
reactant | pyridine | 58 mmol, 4.6 g | N1=CC=CC=C1 | C5H5N
reactant | iodine | 58 mmol, 14.72 g | II | I2
reactant | dichloromethane | 150 mL | ClCCl | CH2Cl2
solvent | diethyl ether | 200 mL | C(C)OCC | C4H10O
solvent | diethyl ether | 100 mL | C(C)OCC | C4H10O
product | 1-Chloro-4-(2-iodoethyl)-benzene | 17.1 g | ClC1=CC=C(C=C1)CCI | C8H8ClI
